US09428509B2
4-Amino-N-(2-hydroxyethyl)-3-methoxybenzamide
To a solution of 4-amino-3-methoxybenzoic acid (1 equiv) in anhydrous DCM (0.6 M) was added triethylamine (4 equiv), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (1.2 equiv) and 2-aminoethanol (2 equiv) portionwise. The mixture was stirred at room temperature overnight. After the reaction was complete, as monitored by LCMS, the mixture was diluted with a mixture of isopropanol in chloroform (30%), washed with water and dried over anhydrous sodium sulfate. The organic phase was concentrated and purified by silica column to give the title compound as a white solid (17% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.05-8.02 (t, J=5.6 Hz, 1H), 7.32-7.27 (m, 1H), 6.60 (d, J=8.0 Hz, 1H), 5.21 (brs, 2H), 4.69 (t, J=5.6 Hz, 1H), 3.80 (s, 3H), 3.50-3.46 (m, 2H), 2.34-3.27 (m, 2H). MS (ESI) m/z 211.1 [M+1]+.

reactant | 4-amino-3-methoxybenzoic acid | 1 equiv | NC1=C(C=C(C(=O)O)C=C1)OC | C8H9NO3
reactant | triethylamine | 4 equiv | C(C)N(CC)CC | C6H15N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 1.2 equiv | Cl.CN(CCCN=C=NCC)C
reactant | 2-aminoethanol | 2 equiv | NCCO | C2H7NO
solvent | DCM | 0.6 M | C(Cl)Cl | CH2Cl2
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-Amino-N-(2-hydroxyethyl)-3-methoxybenzamide | 17% yield | NC1=C(C=C(C(=O)NCCO)C=C1)OC | C10H14N2O3
